US08754054B2
A mixture of (6R,6aS,14aR)-methyl 1-(2-(benzyloxy)-2-oxoethoxy)-6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (22 mg, 0.024 mmol) and 10% Pd/C (10 mg) in THF (1 mL) was stirred under hydrogen (1 atm) at room temperature for 1 h. The reaction mixture was filtered and concentrated. The residue was purified by semi-preparative HPLC (45:55 acetonitrile/water with 0.05% TFA) to afford 2-((6R,6aS,14aR)-6,8,14a-trihydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-2-(methoxycarbonyl)-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracen-1-yloxy)acetic acid (13 mg, 66%) as an orange solid and as a mixture of diastereomers: 1H NMR (500 MHz, acetone-d6) δ 14.30 (br s, 1H), 8.21 (s, 0.5H), 8.17 (s, 0.5H), 7.19 (d, J=9.0 Hz, 0.5H), 7.08 (d, J=5.7 Hz, 0.5H), 6.99 (s, 0.5H), 6.91 (s, 0.5H), 6.17 (s, 0.5H), 6.00 (s, 0.5H), 5.30 (br s, 1H), 5.11 (d, J=4.8 Hz, 0.5H), 5.06 (d, J=4.8 Hz, 0.5H), 4.92-4.85 (m, 0.5H), 4.76-4.72 (m, 0.5H), 4.62 (br s, 0.5H), 4.60 (br s, 0.5H), 4.50-4.41 (m, 1H), 4.04 (d, J=5.1 Hz, 1H), 3.91-3.83 (m, 1H), 3.76 (s, 1.5H), 3.75 (s, 1.5H), 3.74 (br s, 3H), 3.54 (br s, 3H), 3.52 (s, 1.5H), 3.50 (s, 1.5H), 3.32-3.30 (m, 1H), 3.09-3.05 (m, 1H), 2.19 (s, 1.5H), 2.17 (s, 1.5H), 1.25 (d, J=6.2 Hz, 1.5H), 1.21 (d, J=6.3 Hz, 1.5H); MS (ESI+) m/z 756 (M+H); HPLC 98.5% (AUC), tR 11.48, 11.45 min.

reactant | (6R,6aS,14aR)-methyl 1-(2-(benzyloxy)-2-oxoethoxy)-6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.024 mmol, 22 mg | C(C1=CC=CC=C1)OC(COC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC)=O | C43H43NO17
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 2-((6R,6aS,14aR)-6,8,14a-trihydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-2-(methoxycarbonyl)-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracen-1-yloxy)acetic acid | 13 mg, 66% | O[C@@H]1CC2=C([C@@]3(C(C4=CC=5C(C(=CC(C5C(=C4C([C@]13OC)=O)O)=O)NC1O[C@H]([C@@H]([C@H]([C@H]1OC)O)OC)C)=O)=O)O)C(=C(C(=C2)C)C(=O)OC)OCC(=O)O | C36H37NO17
